US08431563B2
Following the procedure outlined for Example 69, 3-fluorophenylboronic acid (20.23 mg, 0.145 mmol) was coupled to 2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol to afford 1,1,1,3,3,3-hexafluoro-2-(3′-fluoro-6-(4-(2-thiophenylsulfonyl)-1-piperazinyl)-3-biphenylyl)-2-propanol. 1H NMR (300 MHz, CD3OD) δ 7.89 (d, J=4.2 Hz, 1H), 7.66 (s, 1H), 7.58 (d, J=2.6 Hz, 1H), 7.53 (s, 1H), 7.42-7.31 (m, 1H), 7.27 (d, J=4.0 Hz, 3H), 7.17 (d, J=8.6 Hz, 1H), 7.09-6.97 (m, 1H), 2.96 (br. s, 8H). m/z (ESI, +ve ion) 568.8 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=3.67 μM; GK-GKRP EC50 (LC MS/MS)=1.84 μM.

reactant | 3-fluorophenylboronic acid | 0.145 mmol, 20.23 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | 2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | BrC=1C=C(C=CC1N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C(C(F)(F)F)(C(F)(F)F)O | C17H15BrF6N2O3S2
product | 1,1,1,3,3,3-hexafluoro-2-(3′-fluoro-6-(4-(2-thiophenylsulfonyl)-1-piperazinyl)-3-biphenylyl)-2-propanol | FC(C(C(F)(F)F)(O)C=1C=C(C(=CC1)N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C1=CC(=CC=C1)F)(F)F | C23H19F7N2O3S2
